US08541588B2
tert-Butyl 4-(5-chloro-2-hydroxyphenyl)piperidine-1-carboxylate
To a suspension of 4-chloro-2-piperidin-4-ylphenol hydrobromide (Preparation 232, 100 mg, 0.342 mmol) and N-ethyl-N-isopropylpropan-2-amine (65.5 μl, 0.376 mmol) in dichloromethane (5 ml) at 0° C. was added dropwise a solution of di-tert-butyl dicarbonate (82.9 mg, 0.376 mmol) in dichloromethane (1 ml). The resulting mixture was warmed to room temperature and stirred for 16 hours. Water (1 ml) was added and stirred for 5 minutes before filtering through a phase separating cartridge. The organics were evaporated in vacuo to afford the title compound as a pale cream solid, 110 mg, 100% yield.

reactant | 4-chloro-2-piperidin-4-ylphenol hydrobromide | 0.342 mmol, 100 mg | Br.ClC1=CC(=C(C=C1)O)C1CCNCC1
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.376 mmol, 65.5 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 0.376 mmol, 82.9 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 1 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-(5-chloro-2-hydroxyphenyl)piperidine-1-carboxylate | 100% yield | ClC=1C=CC(=C(C1)C1CCN(CC1)C(=O)OC(C)(C)C)O | C16H22ClNO3
